US05679670
N-(2-Thienyl)methyl-2,5-thiophenedisulfonamide
To a solution of 5-sulfamoyl-thiophene-2-sulfonyl chloride (0.80 g, 3.1 mmol) in ethanol (10 mL) at 0° C. was added 2-thiophenemethylamine (0.67 mL, 6.51 mmol) and this mixture stirred at room temperature for 18 hr. After evaporation of solvent the residue was dissolved in ethyl acetate (200 mL) and this solution was washed with saturated aqueous sodium bicarbonate (2×50 mL), dried (MgSO4), and evaporated to a crude material which was purified by column chromatography (silica, 5% methanol/methylene chloride) and recrystallization [methanol/methylene chloride (1:50)] to give the desired product (450 mg, 45%): mp 146°-148° C. Analysis: Calculated for C9H10 N2O4S4 : C, 31.94; H, 2.98; N, 8.28. Found: C, 32.00; H, 2.96; N, 8.29.

reactant | 5-sulfamoyl-thiophene-2-sulfonyl chloride | 3.1 mmol, 0.80 g | S(N)(=O)(=O)C1=CC=C(S1)S(=O)(=O)Cl | C4H4ClNO4S3
reactant | 2-thiophenemethylamine | 6.51 mmol, 0.67 mL | S1C(=CC=C1)CN | C5H7NS
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-(2-Thienyl)methyl-2,5-thiophenedisulfonamide | 450 mg, 45% | S1C(=CC=C1)CNS(=O)(=O)C=1SC(=CC1)S(=O)(=O)N | C9H10N2O4S4
